US06034057
Acylation of the Leu resin with Fmoc-Ile (1.42 g, 4 mmole) activated with O-(benzotriazol-1-yl),1,1,3,3,-tetramethyluronium hexafluorophosphate (HBTU) (1.52 g, 4 mmole) and diisopropylethylamine (1.4 ml, 8 mmole) in dimethylformamide (8 ml) for 30 minutes. After the reaction, the resin was washed five times (as above) with dimethylformamide to remove the excess reagents and dried. Only half of the Fmoc-Ile-Leu resin thus obtained was used in the next step.

reactant | Leu | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | Fmoc-Ile | 4 mmole, 1.42 g | N([C@@H]([C@@H](C)CC)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C21H23NO4
reactant | diisopropylethylamine | 8 mmole, 1.4 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | Fmoc-Ile-Leu | N([C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C27H34N2O5
